US09212182B2
A RBF was charged with 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methylphenyl)quinolin-2(1H)-one (2.45 g, 5.39 mmol), acetonitrile (16.91 ml), acetic acid (0.643 ml), and water (0.423 ml). After cooling to 0° C., 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (1.594 g, 8.09 mmol) was added as a solid in a single portion. The reaction was maintained at 0° C. for 40 min. At 0° C., 2,3,4,5,6-pentafluorophenol (1.191 g, 6.47 mmol) was added followed by triethylamine (3.01 ml, 21.57 mmol) dropwise. After maintaining at 0° C. for 30 min, the whole was warmed to rt and stir for 20 min. The reaction was quenched with water (15 mL). The whole was extracted with EtOAc (2×25-mL), then with DCM (2×20 mL). The organic layer was dried over MgSO4, filtered, and concentrated to afford yellow residue. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 30% EtOAc in heptane, to provide perfluorophenyl 1-(4-bromo-5-fluoro-2-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (2.65 g, 85% yield) as off-white solid. m/z (ESI) [M+H]+=578.1. NMR (400 MHz, CHLOROFORM-d) δ ppm 1.99 (s, 3 H) 6.80 (d, J=9.02 Hz, 1 H) 6.94 (d, J=9.64 Hz, 1H) 7.04 (d, J=7.98 Hz, 1 H) 7.71 (dd, J=7.15, 0.52 Hz, 1 H) 7.86-7.95 (m, 2 H) 8.29 (d, J=2.18 Hz, 1 H).

reactant | 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methylphenyl)quinolin-2(1H)-one | 5.39 mmol, 2.45 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)F)Br)C)=O | C23H17BrFNOS
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 8.09 mmol, 1.594 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | 2,3,4,5,6-pentafluorophenol | 6.47 mmol, 1.191 g | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
reactant | triethylamine | 21.57 mmol, 3.01 ml | C(C)N(CC)CC | C6H15N
reactant | water | 0.423 ml | O | H2O
solvent | acetic acid | 0.643 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 16.91 ml | C(C)#N | C2H3N
product | perfluorophenyl 1-(4-bromo-5-fluoro-2-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 2.65 g, 85% yield | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)C | C22H10BrF6NO4S
